US08492582B2
Piperidine (0.012 mL), cesium carbonate (0.054 g), tris(dibenzylideneacetone)dipalladium(0) (2.3 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (5.9 mg), and palladium(II) acetate (1.1 mg) were added to a toluene (2.0 mL) solution of methyl 2-(2-(benzyloxy)-5-bromobenzamido)-5-methoxy-4-phenylbenzoate (0.045 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours and 20 minutes. The reaction mixture was cooled to room temperature, and ethyl acetate and water were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 95-85% hexane/ethyl acetate] to obtain 0.034 g of methyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-5-methoxy-4-phenylbenzoate as a yellow solid.

reactant | Piperidine | 0.012 mL | N1CCCCC1 | C5H11N
reactant | cesium carbonate | 0.054 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 5.9 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | methyl 2-(2-(benzyloxy)-5-bromobenzamido)-5-methoxy-4-phenylbenzoate | 0.045 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=C(C(=C2)C2=CC=CC=C2)OC)C=C(C=C1)Br | C29H24BrNO5
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 2.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 1.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-5-methoxy-4-phenylbenzoate | 0.034 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=C(C(=C2)C2=CC=CC=C2)OC)C=C(C=C1)N1CCCCC1 | C34H34N2O5
